US07507740B2
(i) Production of 5-{2-[2-(tert-butylthio)ethoxy]ethyl}-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
2-{2-[4-({3-Chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol (150 mg) was dissolved in tetrahydrofuran (6.0 mL), and triethylamine (1.00 mL) and methanesulfonyl chloride (0.59 mL) were added under ice-cooling and the mixture was stirred for 1 hr. Saturated aqueous sodium hydrogen carbonate was added to this reaction solution under ice-cooling and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated, and the residue was dissolved in a mixed solvent of N,N-dimethylformamide (4.0 mL) and tetrahydrofuran (6.0 mL). Sodium 2-methylpropane-2-thiolate (220 mg) was added, and the mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture under ice-cooling and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated. The residue was separated and purified by silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→ethyl acetate:methanol=90:10) to give the title compound (143 mg).

reactant | 2-{2-[4-({3-Chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol | 150 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCOCCO | C23H20ClF3N4O3
reactant | triethylamine | 1.00 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.59 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | 5-{2-[2-(tert-butylthio)ethoxy]ethyl}-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 143 mg | C(C)(C)(C)SCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl | C27H28ClF3N4O2S
